US05190950
A solution of 6 g (7.59 mmole) of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclo-hexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone (containing approximately 10% of the 17-methyl analog) and 0.87 g (7.8 mmole) selenium dioxide in 60 ml glacial acetic acid and 10 ml water was stirred at 22° C. for 21 hours. The solution was lyophilyzed and the residue was chromatographed on 300 g silica gel using methylene chloride and methanol/methylene chloride as eluent. The new product was rechromatographed on silica gel with 4% methanol/methylene chloride as eluent to yield 1.68 g (27% yield) 17-ethyl-1,14,20-trihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos -18-ene-2,3,10,16-tetraone.

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclo-hexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone | 7.59 mmole, 6 g | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
reactant | selenium dioxide | 7.8 mmole, 0.87 g | [Se](=O)=O | O2Se
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
product | 17-ethyl-1,14,20-trihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos -18-ene-2,3,10,16-tetraone | 1.68 g, 27% yield | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(C(C(=C1)C)O)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO13
